US04012413
In the manner give in Example 22, a mixture of 1-(2-aminoethyl)-8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,4]-benzodiazepin, propionaldehyde and acetic acid in tetrahydrofuran is treated with sodium cyanoborohydride and the resulting boran complex is warmed with aqueous ethylenediamine to give 1-[2-(dipropylamino)ethyl]-8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 1-(2-aminoethyl)-8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,4]-benzodiazepin | NCCC1=NN=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=C(C=C1)Cl | C18H16ClN5
reactant | propionaldehyde | C(CC)=O | C3H6O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | ethylenediamine | C(CN)N | C2H8N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-[2-(dipropylamino)ethyl]-8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | C(CC)N(CCC1=NN=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=C(C=C1)Cl)CCC | C24H28ClN5
